US05278158
To a solution of 632 mg 2-(6-amino-3,4-dihydro-2,2-dimethyl-7-nitro-2H-1,4-benzoxazin-4-yl)pyridine 1 -oxide in 10 ml acetic acid, was added 50 mg of 10% palladium carbon, and catalytic hydrogenation was performed. The reaction mixture was filtered by the use of Celite, the solvent was distilled off from the filtrate under reduced pressure, the residue was dissolved in 10 ml tetrahydrofuran, 5 ml tetrahydrofuran solution containing 324 mg carbonyldiimidazole was added under ice cooling, and the mixture was stirred overnight at room temperature. The precipitate which separated out was filtered off, the solvent was distilled off from the filtrate under reduced pressure, the residue thus obtained was dissolved in water, the aqueous solution was washed with chloroform and allowed to stand at room temperature for one hour, and the crystals which separated out were collected by filtration, thus giving 130 mg of 2-(7,8-dihydro-6,6-dimethyl-2-oxo-6H-[1,4]oxazino[2,3-f]benzimidazolin-8-yl)pyridine 1-oxide.

reactant | 2-(6-amino-3,4-dihydro-2,2-dimethyl-7-nitro-2H-1,4-benzoxazin-4-yl)pyridine 1 -oxide | 632 mg | NC=1C(=CC2=C(N(CC(O2)(C)C)C2=[N+](C=CC=C2)[O-])C1)[N+](=O)[O-] | C15H16N4O4
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
catalyst | palladium carbon | 50 mg | [C].[Pd]
product | 2-(7,8-dihydro-6,6-dimethyl-2-oxo-6H-[1,4]oxazino[2,3-f]benzimidazolin-8-yl)pyridine 1-oxide | 130 mg | CC1(CN(C=2C(=CC3=C(NC(N3)=O)C2)O1)C1=[N+](C=CC=C1)[O-])C | C16H16N4O3
